US06649643B1
Production of (S)-(−)-1-(6,7-Dimethoxy-2-naphthyl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
1-benzyloxymethyl-4-iodoimidazole (31.5 g) was dissolved in dichloromethane (500 mL) under argon atmosphere. A solution of ethylmagnesium bromide in THF (0.96M; 110 mL) was added dropwise to the solution with keeping the reaction temperature below 8° C. and the mixture was stirred for 1 h. A solution of 6,7-dimethoxy-2-isobutyrylnaphthalene (31 g) in dichloromethane (50 mL) was added to the mixture and stirred at room temperature for 24 h. Saturated ammonium chloride solution (150 mL) and water (350 mL) were added to the mixture, and organic layer was concentrated. The residue was dissolved in THF (200 mL)-ethyl acetate (1 L), washed with water and brine, dried over Na2SO4 and concentrated in vacuo to one tenth of initial volume. The crystals were collected and washed with ethyl acetate to give the titled compound (23.4 g) as colorless crystals. Second crystals (4.53 g) were recovered from the mother liquor.

reactant | 1-benzyloxymethyl-4-iodoimidazole | 31.5 g | C(C1=CC=CC=C1)OCN1C=NC(=C1)I | C11H11IN2O
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 6,7-dimethoxy-2-isobutyrylnaphthalene | 31 g | COC=1C=C2C=CC(=CC2=CC1OC)C(C(C)C)=O | C16H18O3
reactant | ammonium chloride | 150 mL | [Cl-].[NH4+]
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | THF | 0.96M, 110 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 350 mL | O | H2O
product | (S)-(−)-1-(6,7-Dimethoxy-2-naphthyl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 23.4 g | COC=1C=C2C=CC(=CC2=CC1OC)[C@](C(C)C)(O)C=1N=CNC1 | C19H22N2O3
